US07935724B2
A solution of 2-trityloxycarbamoyl -benzo[b]thiophene-5-carboxylic acid methyl ester (4.439 g, 8.99 mmol) in THF (50 mL) and 2M aqueous NaOH (50 mL) was allowed to stir at rt for six days. After removal of THF, the aqueous phase was acidified with HOAc/H2O (1:1) to pH≈4. The solid formed was filtered, collected and dried to give 2-trityloxycarbamoyl-benzo[b]thiophene-5-carboxylic acid as a white solid. 1H NMR (DMSO-d6, 200 MHz) δ 11.33 (brs, 1H), 8.47 (s, 1H), 8.10-7.80 (m, 3H), 7.56-7.14 (m, 15H). MS (EI): cal'd 243.1 (M-benzothiophene moiety+H+,) exp 243.1 (M-benzothiophene moiety+H+).

reactant | 2-trityloxycarbamoyl -benzo[b]thiophene-5-carboxylic acid methyl ester | 8.99 mmol, 4.439 g | COC(=O)C1=CC2=C(SC(=C2)C(NOC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C30H23NO4S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | NaOH | 2M, 50 mL | [OH-].[Na+]
product | 2-trityloxycarbamoyl-benzo[b]thiophene-5-carboxylic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)ONC(=O)C1=CC2=C(S1)C=CC(=C2)C(=O)O | C29H21NO4S
